US05948785
Ethyl 3-methylbenzimidate hydrochloride was synthesized in the same manner as in Reference Example 2. That is, m-tolunitrile (25.2 g, 0.215 mol) was treated with hydrogen chloride in ethanol (250 mL) to give 41.7 g (97%) of the target compound as colorless crystals.

reactant | m-tolunitrile | 0.215 mol, 25.2 g | C1(=CC(=CC=C1)C#N)C | C8H7N
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 250 mL | C(C)O | C2H6O
product | Ethyl 3-methylbenzimidate hydrochloride | Cl.CC=1C=C(C(OCC)=N)C=CC1 | InChI=1S/C10H13NO.ClH/c1-3-12-10(11)9-6-4-5-8(2)7-9;/h4-7,11H,3H2,1-2H3;1H
